US07700594B2
1-Bromo-4-methoxy-2-methyl-3-nitrobenzene
To a solution of 4-bromo-3-methyl-2-nitrophenol (2.200 g, 9.48 mmol) in acetone (35 mL) was added potassium carbonate (3.276 g, 23.70 mmol) and methyl iodide (1.47 mL, 23.70 mmol) and the mixture was heated to reflux for 4 h. The reaction was cooled to rt, filtered and the filtrate was evaporated under reduced pressure to afford the crude product. Purification of the crude product by column chromatography over silica gel eluting with EtOAc/hexane afforded pure 1-bromo-4-methoxy-2-methyl-3-nitrobenzene as pale yellow solid. 1H NMR (400 MHz, CDCl3) δ=2.33 (s, 2H), 3.87 (s, 3H), 6.78 (d, J=8.84 Hz, 1H) and 7.58 (d, J=8.84 Hz, 1H); MS (ES+): m/z 247.26 [MH+].

reactant | 4-bromo-3-methyl-2-nitrophenol | 9.48 mmol, 2.200 g | BrC1=C(C(=C(C=C1)O)[N+](=O)[O-])C | C7H6BrNO3
reactant | potassium carbonate | 23.70 mmol, 3.276 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 23.70 mmol, 1.47 mL | CI | CH3I
solvent | acetone | 35 mL | CC(=O)C | C3H6O
product | 1-Bromo-4-methoxy-2-methyl-3-nitrobenzene | BrC1=C(C(=C(C=C1)OC)[N+](=O)[O-])C | C8H8BrNO3
